US06380215B1
4-(2-Trimethylsilylethynyl)-2-azetidinone (485 g) and paraformaldehyde (261 g) was heated at 135° C. for 45 minutes. The resulting mixture was cooled to room temperature and purified with column chromatography on silica gel (CH2Cl2: EtOAc=8:2) to give N-hydroxymethyl-4-(2-trimethylsilylethynyl)-2-azetidinone (429 g).

reactant | 4-(2-Trimethylsilylethynyl)-2-azetidinone | 485 g | C[Si](C#CC1CC(N1)=O)(C)C | C8H13NOSi
reactant | paraformaldehyde | 261 g | C=O | CH2O
product | N-hydroxymethyl-4-(2-trimethylsilylethynyl)-2-azetidinone | 429 g | OCN1C(CC1C#C[Si](C)(C)C)=O | C9H15NO2Si
